US08802713B2
0.7 g of 3-hydroxy-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methylpyrazole was dissolved in 15 mL of dimethylsulfoxide, and 0.36 g of potassium carbonate and 0.94 g of 2,2,3,3,3-pentafluoropropyl nonafluorobutyl sulfonate were added, followed by stirring at room temperature for 5 hours. After completion of the reaction, the reaction solution was poured into water, extraction with ethyl acetate was carried out, washing with a saturated salt solution was carried out, the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (ethyl acetate:hexane=1:10) to obtain 0.90 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methyl-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole.

reactant | 3-hydroxy-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methylpyrazole | 0.7 g | OC1=NN(C(=C1)C)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F | C13H12F4N2OS
reactant | potassium carbonate | 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,3,3,3-pentafluoropropyl nonafluorobutyl sulfonate | 0.94 g | FC(C(C(F)(F)S(=O)(=O)OCC(C(F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C7H2F14O3S
reactant | water | O | H2O
solvent | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methyl-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole | 0.90 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1C)OCC(C(F)(F)F)(F)F | C16H13F9N2OS
